US06057354
Preparation of 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-3-(2-methyl-1,3-dithiolane-2-yl)-4-methylthio-1H-pyrazole
A mixture of 1 g (2.60 mmol) of 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-3-acetyl-4-methylthio-1H-pyrazole, 0.26 ml (3.10 mmol) of 1,2-ethanedithiol, 0.084 g (0.5 mmol) of iron(III) chloride and 25 ml of methylene chloride was stirred at 20° C. under an inert atmosphere for 6 days. The mixture was evaporated and chromatographed so as to give 100 mg of yellow oil of the title compound. Mass spectral analysis gave a molecular weight of 460.

reactant | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-3-acetyl-4-methylthio-1H-pyrazole | 2.60 mmol, 1 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(C)=O)SC | C13H10Cl2F3N3OS
reactant | 1,2-ethanedithiol | 3.10 mmol, 0.26 ml | C(CS)S | C2H6S2
catalyst | iron(III) chloride | 0.5 mmol, 0.084 g | [Fe](Cl)(Cl)Cl
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-3-(2-methyl-1,3-dithiolane-2-yl)-4-methylthio-1H-pyrazole | 100 mg | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C1(SCCS1)C)SC | C15H14Cl2F3N3S3
